data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_171465_2,[C:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:13])([C:6]([C:3]([O:8][H:11])([H:14])[H:15])=[O:9])([O:7][H:10])[H:12]>>[C:1]([C:6]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:13])([C:3]([O:8][H:11])([H:14])[H:15])[O:9][H:10])(=[O:7])[H:12],47.11583750000088
MR_434327_2,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[H:12])([N:6]([H:10])[H:11])[H:9]>>[C:1](\[C:5]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])[N:7]([H:10])[H:12])(=[N:6]/[H:11])[H:9],47.92092000000139
MR_196033_1,[C:1](/[N:8]=[C:7]([C:5](\[C:3]([H:18])([H:19])[H:20])=[C:4](/[C:2]([H:15])([H:16])[H:17])[N:6]([H:9])[H:10])/[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:4]([C:2]([H:15])([H:16])[H:17])([N:6]([H:9])[H:10])[C:5]([C:3]([H:18])([H:19])[H:20])=[C:7]1[H:11])([H:12])([H:13])[H:14],44.57760000002452
MR_387823_1,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:7](\[N:6]([H:11])[H:12])[H:13])([O:8][H:9])[H:10]>>[C@:1]1([O:8][H:9])([H:10])[C@:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C@@:7]1([N:6]([H:11])[H:12])[H:13],68.03229500001805
MR_451491_0,[C:1]12([H:9])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:5]1([C:4]([N:6]([H:10])[H:11])=[O:8])[N:7]2[H:12]>>[C:1]1(/[C:5]([C:4]([N:6]([H:10])[H:11])=[O:8])=[N:7]\[H:12])([H:9])[C:2]([H:13])([H:14])[C:3]1([H:15])[H:16],56.25223750001169
MR_477374_0,[C:1]([N:2]([H:9])[H:10])([O:3]/[N:5]=[N:6]/[O:4][H:8])=[O:7]>>[C:1]([N:2]([H:9])[H:10])([N:6]([O:4][H:8])[N:5]=[O:3])=[O:7],37.39335250000735
MR_112415_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:8])[C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])[N:7]1[H:9]>>[C:1]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])(/[C:5]([C:4]([H:17])([H:18])[H:19])=[N:7]\[H:9])[H:8],67.13999000002374
MR_174136_2,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:7])([N:5]([H:9])[H:10])[O:6][H:8]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([N:5]([H:9])[H:10])[C@:4]([C:3]([H:14])([H:15])[H:16])([O:6][H:8])[O:7]1,36.15278500000059
MR_644166_0,[N:1](/[C:3](=[C:2](/[N:5]([H:12])[H:13])[O:7][H:8])[N:6]([H:14])[H:15])([N:4]([H:10])[H:11])[H:9]>>[N:1]1([H:9])[C:3]([C:2]([N:5]([H:12])[H:13])([O:7][H:8])[H:11])([N:6]([H:14])[H:15])[N:4]1[H:10],68.59641749998488
MR_562156_2,[C:1]([N:3]([H:9])[H:11])([O:5][O:6][C:2]([N:4]([H:10])[H:12])=[O:8])=[O:7]>>[C:1]([N:3]([H:9])[H:11])([O:6][O:5][C:2]([N:4]([H:10])[H:12])=[O:8])=[O:7],55.659877500009145
MR_506700_0,[C:1]([C:3]([C:2]([O:7][H:11])=[O:8])=[C:4]([H:13])[H:14])([O:5][H:10])([O:6][H:9])[H:12]>>[C:1]([C:3]([C:2]([O:7][H:11])([O:8][H:9])[H:12])=[C:4]([H:13])[H:14])([O:5][H:10])=[O:6],69.80184499997335
MR_381433_1,[C:1]([C:4](=[C:5]([H:16])[H:17])[O:7][C:2]([H:13])([H:14])[H:15])([O:6][C:3]([O:8][H:10])=[O:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:4]([C:5]([C:3]([O:8][H:10])=[O:9])([H:16])[H:17])([O:7][C:2]([H:13])([H:14])[H:15])[O:6]1,60.2763950000174
MR_605552_0,[C:1]([C:3]([C:2]([O:6][H:9])([H:11])[H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])/[N:7]=[N:8]/[H:10]>>[C:1]([C:3]([C:2](=[O:6])[H:11])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[N:7]([N:8]([H:9])[H:10])[H:12],36.1370975000402
MR_284795_2,[C:1](=[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])([O:5][O:6][H:9])[O:8][H:11])[O:7][H:10])([H:12])[H:13]>>[C:1](/[C:3](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:8][H:11])[O:7][H:10])([O:5][O:6][H:9])([H:12])[H:13],45.23082749998039
MR_113861_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:5]1([H:9])[C:4](=[O:8])[N:7]1[O:6][C:2]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4](/[C:5](=[N:7]\[O:6][C:2]([H:12])([H:13])[H:14])[H:9])=[O:8])([H:10])[H:11],48.02194749996033
MR_508615_0,[C@@:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:8])([O:4][N:6][O:7])([O:5][H:9])[H:10]>>[C@:1]([O:4][C:3]([C:2]([H:11])([H:12])[H:13])=[O:8])([O:5][H:9])([N:6][O:7])[H:10],55.80357499996737
MR_234398_0,[C@:1]([C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])([O:6][N:5]([H:9])[H:10])[O:7][H:8]>>[C@:1]([C:3]([H:13])([H:14])[H:15])([N:5]([H:9])[H:10])([O:6][C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[H:12])[O:7][H:8],72.97573999998562
MR_523224_0,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[N:8]/[C:6](=[C:3](\[N:5]([H:10])[H:11])[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:3]([N:5]([H:10])[H:11])([O:7][H:9])[C:6]([H:12])=[N:8]1)([H:13])([H:14])[H:15],55.18862499998619
MR_652599_1,[C:1]([C:4]([N:3]([H:11])[H:12])([N:6]([N:2]([H:9])[H:10])[H:7])[H:13])(=[O:5])[H:8]>>[C:1]([N:3]([H:11])[H:12])(/[C:4](=[N:6]/[N:2]([H:9])[H:10])[H:13])([O:5][H:7])[H:8],35.2215749999975
